data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-c2ccccc2_1-OC_2-C(F)(F)F_3-C(=O)OC_4-OCC_5-Cl_6-OC_7-c2nccs2_8-C(=O)C_9-Cl","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(OC)c(C(F)(F)F)c(C(=O)OC)c(OCC)c(Cl)c1O","c1(OC)c(c2nccs2)c(C(=O)C)c(Cl)c(c2ccccc2)c1I"],"products_smiles": ["c1(OC)c(C(F)(F)F)c(C(=O)OC)c(OCC)c(Cl)c1Oc2c(OC)c(c2nccs2)c(C(=O)C)c(Cl)c2(c2ccccc2)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(OC)c(C(F)(F)F)c(C(=O)OC)c(OCC)c(Cl)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(OC)c(c2nccs2)c(C(=O)C)c(Cl)c(c2ccccc2)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(OC)c(c2nccs2)c(C(=O)C)c(Cl)c(c2ccccc2)c2[Cu](I)Oc1c(OC)c(C(F)(F)F)c(C(=O)OC)c(OCC)c1(Cl)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(OC)c(C(F)(F)F)c(C(=O)OC)c(OCC)c(Cl)c1Oc2c(OC)c(c2nccs2)c(C(=O)C)c(Cl)c2(c2ccccc2)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
{"reaction_id": "NR-034_1-C(F)(F)F_2-C_3-c1ccccc1_4-CC","name": "Burgess Dehydration","level": "easy","reactants_smiles": ["C(C(F)(F)F)(C)(O)C(c1ccccc1)(CC)","COC(=O)[N-]S(=O)(=O)[N+](CC)(CC)CC"],"products_smiles": ["C(C(F)(F)F)(C)=C(c1ccccc1)(CC)"],"conditions": "Burgess Reagent (the second reactant)","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)[OH+](C(C(F)(F)F)(C)C(c1ccccc1)(CC))","rationale": "The electrophilic sulfur in the Burgess reagent is activated by electron-withdrawing sulfonyl and carbamate groups, allowing nucleophilic attack by the alcohol oxygen to form a sulfamate ester intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)OC(C(F)(F)F)(C)C(c1ccccc1)(CC)","rationale": "Proton transfer from the oxonium intermediate to the carbamate nitrogen neutralizes charge, stabilizing the intermediate and preparing the oxygen for elimination."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(F)(F)F)(C)=C(c1ccccc1)(CC)","rationale": "The sulfamate group is an excellent leaving group due to resonance stabilization and electron-withdrawing substituents, enabling β-elimination to form the alkene under mild conditions."}],"description": "The Burgess reagent, a mild dehydrating agent, reacts with the alcohol to form a sulfamate ester intermediate. Under the reaction conditions, intramolecular elimination occurs, driven by the good leaving group ability of the sulfamate, yielding the alkene product under mild, non-acidic conditions."}
